US05158963
5-Ethoxycarbonyl-3-methoxycarbonyl-1,4-dihydro-2,6-dimethyl-4-(3-ethynylphenyl)pyridine
In 20 ml of ethyl alcohol was dissolved 1.95 g (15 mmol) of 3-ethynylbenzaldehyde. Thereto were added 1.73 g (15 mmol) of methyl 3-aminocrotonate and 1.95 g (15 mmol) of ethyl acetoacetate. The mixture was stirred with heating for 16 hours at 80° C. After completing the reaction, the reaction solution was concentrated. The obtained precipitate was washed with ether and then recrystallized from the mixture solution of n-pentane and diethylether (n-pentane: diethylether =3 : 1 (by volume, hereinafter the same)) to give 3.5 g of the desired compound as yellow needle crystals (yield: 70%).

reactant | 3-ethynylbenzaldehyde | 15 mmol, 1.95 g | C(#C)C=1C=C(C=O)C=CC1 | C9H6O
reactant | methyl 3-aminocrotonate | 15 mmol, 1.73 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | ethyl acetoacetate | 15 mmol, 1.95 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | diethylether | C(C)OCC | C4H10O
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 5-Ethoxycarbonyl-3-methoxycarbonyl-1,4-dihydro-2,6-dimethyl-4-(3-ethynylphenyl)pyridine | 3.5 g | C(C)OC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)C#C | C20H21NO4
